US07276606B2
6-(1H-Indol-3-yl)-6H-phenanthridine-5-carboxylic acid methyl ester was prepared from phenanthridine, methyl chloroformate, and indole according to GP 2. Yield, 9%. (+)-ESI-MS: m/z=355 [M+H]+, 238 [M-indole+H]+.

reactant | phenanthridine | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
product | 6-(1H-Indol-3-yl)-6H-phenanthridine-5-carboxylic acid methyl ester | COC(=O)N1C=2C=CC=CC2C2=CC=CC=C2C1C1=CNC2=CC=CC=C12 | C23H18N2O2
